US06251926B1
A mixture of methyl phenylglyoxylate (25.5 g), hydroxylamine hydrochloride (11.3 g), triethylamine (22.8 ml) and methanol (300 ml) was stirred for 17 hours at 60° C. The reaction mixture was concentrated, and the residue was diluted with water and extracted with ethyl acetate. The ethyl acetate layer was washed with water, (MgSO4), and then concentrated. The residual crystals were recrystallized from ethyl acetate-hexane to obtain methyl E-2-hydroxyimino-2-phenylacetate (3.58 g, yield 13%) as colorless crystals. m.p. 151-153° C.

reactant | methyl phenylglyoxylate | 25.5 g | C1(=CC=CC=C1)C(C(=O)OC)=O | C9H8O3
reactant | hydroxylamine hydrochloride | 11.3 g | Cl.NO
reactant | triethylamine | 22.8 ml | C(C)N(CC)CC | C6H15N
solvent | methanol | 300 ml | CO | CH4O
product | methyl E-2-hydroxyimino-2-phenylacetate | 3.58 g, yield 13% | O\N=C(\C(=O)OC)/C1=CC=CC=C1 | C9H9NO3
